Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Cephalosporins
 
Attending: ___.
 
Chief Complaint:
worsening low back and radiating leg pain
 
Major Surgical or Invasive Procedure:
___. Anterior osteotomy at L3-4, L4-5 and ___.
2. Fusion L3 to S1.
3. Instrumentation.
4. Autograft.

___. Anterior osteotomy at L2-3.
2. Fusion of L2 to L4.
3. Autograft, bone morphogenic protein, and allograft.

 
History of Present Illness:
Ms. ___ is a ___ female who returns to the office 
complaining of worsening lower back pain that radiates into her 
lower extremities as well as dysesthesias. She also noted 
bilateral hip pain. She has undergone a previous ___ rod 
surgery in ___ ___s removal of a broken portion in ___.  


 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
White female with well healed thoracic fusion incision. Severe 
kyphoscoliosis. Neurovascularly intact throughout. Ambulates 
short distances secondary to back and leg pain. Normal 
cardiovascular examination.Abdominal swelling secondary to 
ventral infra-umbilical hernia.
 
Pertinent Results:
___ 11:19AM BLOOD WBC-14.8* RBC-3.31*# Hgb-10.7*# 
Hct-33.6*# MCV-102* MCH-32.3* MCHC-31.8* RDW-13.3 RDWSD-50.0* 
Plt ___
___ 07:35PM BLOOD WBC-10.8* RBC-2.58* Hgb-8.4* Hct-26.2* 
MCV-102* MCH-32.6* MCHC-32.1 RDW-13.1 RDWSD-47.9* Plt ___
___ 11:28AM BLOOD ___ PTT-28.4 ___
___ 11:19AM BLOOD Plt ___
___ 07:35PM BLOOD Plt ___
___ 11:45AM BLOOD Plt ___
___ 11:28AM BLOOD ___
___ 11:19AM BLOOD Glucose-106* UreaN-5* Creat-0.5 Na-141 
K-4.0 Cl-112* HCO3-22 AnGap-11
___ 07:35PM BLOOD Glucose-95 UreaN-9 Creat-0.5 Na-140 K-4.2 
Cl-108 HCO3-25 AnGap-11
___ 11:45AM BLOOD Glucose-119* UreaN-12 Creat-0.6 Na-139 
K-3.9 Cl-106 HCO3-25 AnGap-12
___ 11:19AM BLOOD Calcium-6.9* Phos-2.2* Mg-1.5*
___ 07:35PM BLOOD Calcium-7.5* Phos-2.9 Mg-1.6
___ 11:45AM BLOOD Calcium-8.0* Phos-3.3 Mg-1.8
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedures.Refer to 
the dictated operative notes for further details.The surgeries 
were without complications and the patient was transferred to 
the PACU in a stable ___ were used for 
postoperative DVT prophylaxis.Intravenous antibiotics were 
continued for 24hrs postop per standard protocol.Initial postop 
pain was controlled with oral and IV pain medication.Diet was 
advanced as tolerated.Foley was removed on POD#2. Physical 
therapy and Occupational therapy were consulted for mobilization 
OOB to ambulate and ADL's.Hospital course was otherwise 
unremarkable.On the day of discharge the patient was afebrile 
with stable vital signs, comfortable on oral pain control and 
tolerating a regular diet.
 
Medications on Admission:
Estradiol 1 mg PO DAILY  
7. MedroxyPROGESTERone Acetate 2.5 mg PO DAILY  

 
Discharge Medications:
1.  Estradiol 1 mg PO DAILY  
2.  MedroxyPROGESTERone Acetate 2.5 mg PO DAILY  

1.  Bisacodyl 10 mg PO/PR DAILY 
RX *bisacodyl [Dulcolax (bisacodyl)] 5 mg 1 tablet(s) by mouth 
once a day Disp #*10 Tablet Refills:*0 
2.  Diazepam 5 mg PO BID:PRN pain 
RX *diazepam 5 mg 1 tabelt by mouth every eight (8) hours Disp 
#*90 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth three 
times a day Disp #*90 Capsule Refills:*0 
4.  Heparin 5000 UNIT SC BID  
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*90 Tablet Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Lumbar scoliosis and spondylosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Lumbar Decompression With Fusion:

You have undergone the following operation: Lumbar Decompression 
With Fusion

Immediately after the operation:

•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit or stand more than~45 minutes without getting up and 
walking around.

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.Limit any kind 
of lifting.

•                Diet: Eat a normal healthy diet.You may have 
some constipation after surgery.You have been given medication 
to help with this issue.

•                Brace:You may have been given a brace.If you 
have been given a brace,this brace is to be worn when you are 
walking.You may take it off when sitting in a chair or while 
lying in bed.

•                Wound Care:Remove the dressing in 2 days.If the 
incision is draining cover it with a new sterile dressing.If it 
is dry then you can leave the incision open to the air.Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower.Do not soak the incision in a 
bath or pool.If the incision starts draining at anytime after 
surgery, do not get the incision wet.Cover it with a sterile 
dressing.Call the office.

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions,so please plan ahead.You can either have 
them mailed to your home or pick them up at the clinic located 
on ___.We are not allowed to call in or fax narcotic 
prescriptions(oxycontin,oxycodone,percocet) to your pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:

               Please Call the office and make an appointment 
for 2 weeks after the day of your operation if this has not been 
done already.

               At the 2-week visit we will check your 
incision,take baseline X-rays and answer any questions.We may at 
that time start physical therapy

               We will then see you at 6 weeks from the day of 
the operation and at that time release you to full activity.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.
Physical Therapy:
1)Weight bearing as tolerated.2)Gait,balance training.3)No 
lifting >10 lbs.4)No significant bending/twisting. 
Treatments Frequency:
Remove the dressing in 2 days.If the incision is draining cover 
it with a new sterile dressing.If it is dry then you can leave 
the incision open to the air.Once the incision is completely dry 
(usually ___ days after the operation) you may take a shower.Do 
not soak the incision in a bath or pool.If the incision starts 
draining at anytime after surgery,do not get the incision 
wet.Call the office at that time.
 
Followup Instructions:
___